US07622501B2
Step 3: 3-hydroxypropane-1,2-diyl dinitrate
To a solution of 2.5 g of 2,3-bis(nitrooxy)propyl acetate in 25 mL of ethanol at 0. ° C. was added 469 mg of crushed NaOH powder. The reaction was stirred at 0° C. for 15 min upon which a cloudy suspension had formed. The resulting mixture was then poured onto ice cold 5% HCl and then extracted 3× with ether. The organics were combined and evaporated to remove most of the ethanol. The oil was then redissolved in ether, dried (Na2SO4), filtered and concentrated in vacuo to give a pale yellow oil which was used immediately without further purification. 1H NMR (500 MHz, acetone-d6): δ 5.59-5.52 (m, 1H), 5.05 (dd, 1H), 4.86 (dd, 1H), 4.60-4.50 (bs, OH), 3.95 (dd, 2H).

reactant | 2,3-bis(nitrooxy)propyl acetate | 2.5 g | C(C)(=O)OCC(CO[N+](=O)[O-])O[N+](=O)[O-] | C5H8N2O8
reactant | NaOH | 469 mg | [OH-].[Na+]
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | 3-hydroxypropane-1,2-diyl dinitrate | [N+](=O)(OCC(CO)O[N+](=O)[O-])[O-] | C3H6N2O7
